US06177452B1
Ethyl chloroformate (395 mg) was dropwise added to a tetrahydrofuran (40 ml) solution of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionic acid (1.00 g) and triethylamine (365 mg), at −30° C. After stirring for 40 minutes, the reaction mixture was added to a mixture of aqueous ammonia (28%, 30 ml) and tetrahydrofuran (10 ml) at 0° C., and then stirred at room temperature for 1 hour. Water was added to the reaction mixture, and the crystals thus precipitated were collected by filtration to obtain 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionamide (900 mg, 90%). This was recrystallized from methanol-ethyl acetate to give colorless needles. mp 215-216° C.

reactant | Ethyl chloroformate | 395 mg | ClC(=O)OCC | C3H5ClO2
reactant | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionic acid | 1.00 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1C(=NC=C1)C | C16H14ClN3O3
reactant | ammonia | 30 ml | N | H3N
solvent | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 365 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropionamide | 900 mg, 90% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)N)N1C(=NC=C1)C | C16H15ClN4O2
